US07019136B2
A solution of 3-ethoxy-4-methoxybenzaldehyde (3.6 g, 20 mmol) in ethanol (15 ml) is added to 2,2-dimethoxyethylamine (21 mmol) and the mixture heated at reflux for 2 hours. After cooling to room temperature, sodium borohydride (0.794 g, 21 mmol) is added and the mixture stirred at room temperature overnight. Ethanol is removed by evaporation and water added, followed by extraction with ethyl acetate. The organic extracts are combined, washed with water, brine, dried over magnesium sulfate and evaporated to give (2,2-dimethoxy-ethyl)-(3-ethoxy-4-methoxy-benzyl)-amine, [MH]+ 270. The intermediate (2.70 g, 10 mmol) is suspended in 6N HCl (50 ml), glyoxylic acid (0.88 g, 12 mmol) is added and the mixture heated for 1 hour at 100° C. After cooling to room temperature, methanol (30 ml) is added and the mixture filtered and characterised as the methyl ester M+ 276. The filtrate is treated with lithium hydroxide (10 mmol) in THF-methanol-water overnight. After evaporation of the solvents, the crude product is partitioned between water and dichloromethane. The aqueous phase is washed with dichloromethane and evaporated to dryness to afford (7-ethoxy-6-methoxy-isoquinolin-4-yl)-acetic acid lithium salt which is used for xanthine formation without further characterisation.

reactant | 3-ethoxy-4-methoxybenzaldehyde | 20 mmol, 3.6 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | 2,2-dimethoxyethylamine | 21 mmol | COC(CN)OC | C4H11NO2
reactant | sodium borohydride | 21 mmol, 0.794 g | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (2,2-dimethoxy-ethyl)-(3-ethoxy-4-methoxy-benzyl)-amine | COC(CNCC1=CC(=C(C=C1)OC)OCC)OC | C14H23NO4
